US04736038
Dissolved in toluene were 2.5 g (0.02 mole) of m-chloroaniline and a catalytic amount of pyridine, followed by dropwise addition of 1.9 g (0.022 mole) of diketene at 50° C. After completion of the dropwise addition, the resultant mixture was heated under reflux for 3 hours. Under ice-cooling, ligroin was added, and precipitated crystals were collected by filtration and were then washed first with ligroin and then with hexane. The crystals were then dried under reduced pressure to obtain 3'-chloroacetoacetanilide.

reactant | m-chloroaniline | 0.02 mole, 2.5 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | diketene | 0.022 mole, 1.9 g | C=C1CC(=O)O1 | C4H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3'-chloroacetoacetanilide | ClC=1C=C(NC(CC(=O)C)=O)C=CC1 | C10H10ClNO2
